US06706663B2
Preparation of 4-Amino-5-fluoro-2-(3-methylpicolinoyl)phenyl thiocyanate
To a mixture of 3-amino-4-fluorophenyl 3-methyl-2-pyridyl ketone(4.20 g, 0.171 mol), sodium thiocyanate (4.19 g, 0.0517 mol) and glacial acetic acid is added a solution of bromine in acetic acid (2M, 12 ml, 0.0240 mol) over a one hour period. The resultant mixture is stirred one hour at room temperature and poured into cold water. The precipitate is filtered and dried to afford the title compound as a green solid (5.43 g, >100%) which is identified by NMR and mass spectral analysis.

reactant | 3-amino-4-fluorophenyl 3-methyl-2-pyridyl ketone | 0.171 mol, 4.20 g | CC=1C(=NC=CC1)C(=O)C1=CC(=C(C=C1)F)N | C13H11FN2O
reactant | sodium thiocyanate | 0.0517 mol, 4.19 g | [S-]C#N.[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | bromine | BrBr | Br2
reactant | acetic acid | 0.0240 mol, 2M, 12 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-Amino-5-fluoro-2-(3-methylpicolinoyl)phenyl thiocyanate | 5.43 g, >100% | NC1=CC(=C(C=C1F)SC#N)C(C1=NC=CC=C1C)=O | C14H10FN3OS
